US08492582B2
1-Methylpiperazine (0.089 mL), cesium carbonate (0.35 g), tris(dibenzylideneacetone)dipalladium(0) (4.9 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (13 mg), and palladium(II) acetate (2.4 mg) were added to a toluene (4.5 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate (0.30 g), followed by heating to reflux under a nitrogen atmosphere for 3 hours. The reaction mixture was cooled to room temperature, and then 1-methylpiperazine (0.060 mL), cesium carbonate (0.18 g), tris(dibenzylideneacetone)dipalladium(0) (4.9 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (13 mg), and palladium(II) acetate (2.4 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 3 hours. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure, and water and chloroform were added to the residue. The insoluble substance was removed by filtration. The organic layer was separated, washed with a 1 mol/L aqueous solution of sodium hydroxide and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-90% chloroform/methanol] to obtain 0.26 g of tert-butyl 2-(2-(benzyloxy)-5-(4-methylpiperazin-1-yl)benzamido)-4-phenylbenzoate.

reactant | 1-Methylpiperazine | 0.089 mL | CN1CCNCC1 | C5H12N2
reactant | cesium carbonate | 0.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate | 0.30 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)Br | C31H28BrNO4
reactant | 1-methylpiperazine | 0.060 mL | CN1CCNCC1 | C5H12N2
reactant | cesium carbonate | 0.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 4.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 2.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 4.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 2.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 13 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 13 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | toluene | 4.5 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(2-(benzyloxy)-5-(4-methylpiperazin-1-yl)benzamido)-4-phenylbenzoate | 0.26 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCN(CC1)C | C36H39N3O4
